US07960419B2
Mix 3-[4-(1,1-difluoroethyl)phenyl]isothiazol-5-ylamine (0.200 g, 0.833 mmol), benzyl (R,R)-2-methylcyclopropanecarboxylate (0.238 g, 1.250 mmol) and potassium t-butoxide (0.190 g, 1.667 mmol) for 1 h. Dilute with satd NaHCO3 and extract with EtOAc. Wash the organic phase with brine, dry (MgSO4) and evaporate. Chromatography on silica gel, eluting with 10% EtOAc in CHCl3, affords (R,R)—N-[3-[4-(1,1-difluoroethyl)phenyl]isothiazol-5-yl]-2-methylcyclopropane-carboxamide. Yield: 50.3%. ES-MS: m/e 323.3 (m+1).

reactant | 3-[4-(1,1-difluoroethyl)phenyl]isothiazol-5-ylamine | 0.833 mmol, 0.200 g | FC(C)(F)C1=CC=C(C=C1)C1=NSC(=C1)N | C11H10F2N2S
reactant | benzyl (R,R)-2-methylcyclopropanecarboxylate | 1.250 mmol, 0.238 g | C[C@H]1[C@@H](C1)C(=O)OCC1=CC=CC=C1 | C12H14O2
reactant | potassium t-butoxide | 1.667 mmol, 0.190 g | CC(C)([O-])C.[K+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (R,R)—N-[3-[4-(1,1-difluoroethyl)phenyl]isothiazol-5-yl]-2-methylcyclopropane-carboxamide | Yield: 50.3% | FC(C)(F)C1=CC=C(C=C1)C1=NSC(=C1)NC(=O)[C@H]1[C@@H](C1)C | C16H16F2N2OS
